US04279927
Preparation of N (3,3-dichloroallyl)-N'(3,4-dichlorophenyl) urea (mark M 7962)
To 0.02 mol of 3,4-dichlorophenylisocyanate, dissolved in 40 ml of ethyl ether, were admixed, at room temperature, 0.02 mol of N-(3,3-dichloroallyl)-amine (prepared starting from 3,3-trichloropropene with hexamethylentetramine--see e.g., Italian patent application No. 28,867 A/76).

reactant | 3,4-dichlorophenylisocyanate | 0.02 mol | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | N-(3,3-dichloroallyl)-amine | 0.02 mol | ClC(=CCN)Cl | C3H5Cl2N
solvent | ethyl ether | 40 ml | C(C)OCC | C4H10O
product | (3,3-dichloroallyl)-N'(3,4-dichlorophenyl) urea | ClC(=CCNC(=O)NC1=CC(=C(C=C1)Cl)Cl)Cl | C10H8Cl4N2O
